US06340684B1
Synthesis of 3-benzyloxy-N,N-diethyl-2-formyl-4-methoxy-benzamide
1.3 M sec-butyl-lithium in cyclohexane/hexane (54 ml, 0.07 moles) was dropped into a solution under nitrogen of 3-benzyloxy-N,N-diethyl-4-methoxy-benzamide (20 g, 0.064 moles), obtained as described in example 31, tetramethylethylendiamine (10.56 ml, 0.07 moles) in THF (2.25 1) under stirring in a dry ice bath at −70° C. After 2 hours at constant temperature, DMF (21.75 ml, 0.28 moles) was added. The temperature was kept constant for 4 hours then left overnight. The mixture was poured into a NaH2PO4/Na2HPO4 buffer solution (1 l) at pH=7, the phases were separated, the organic one was washed with water (1 l), dried and brought to dryness. The crude was chromatographed (eluent: benzene:ethyl acetate 1:1) to give 6 g of the title compound (yield: 27.4%).

reactant | sec-butyl-lithium | 1.3 M | C(C)(CC)[Li]
reactant | cyclohexane hexane | 0.07 moles, 54 ml | C1CCCCC1.CCCCCC
reactant | 3-benzyloxy-N,N-diethyl-4-methoxy-benzamide | 0.064 moles, 20 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)N(CC)CC)C=CC1OC | C19H23NO3
reactant | tetramethylethylendiamine | 0.07 moles, 10.56 ml | CN(CCN(C)C)C | C6H16N2
reactant | DMF | 0.28 moles, 21.75 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-benzyloxy-N,N-diethyl-2-formyl-4-methoxy-benzamide | 6 g, yield: 27.4% | C(C1=CC=CC=C1)OC=1C(=C(C(=O)N(CC)CC)C=CC1OC)C=O | C20H23NO4
